US09212168B2
(a) (R)-tert-butyl 4-(5-(4-bromo-2-fluoro-3-(trifluoromethoxy)benzamido)pyridin-2-yl)-3-methylpiperazine-1-carboxylate
To a solution of 4-bromo-2-fluoro-3-(trifluoromethoxy)benzoic acid (150 mg, 0.50 mmol, Preparation 52), (R)-tert-butyl 4-(5-aminopyridin-2-yl)-3-methylpiperazine-1-carboxylate (145 mg, 0.50 mmol), and HATU (235 mg, 0.62 mmol) dissolved in DMF (1 mL) was added DIPEA (0.43 mL, 2.48 mmol). The reaction mixture was stirred at RT for 1 h, extracted with EtOAc (80 mL) washed with water (3×20 mL) and brine (20 mL), dried over sodium sulfate, filtered, concentrated, and purified by silica gel chromatography (12 g silica gel, 0-40% EtOAc:hexanes over 20 min), to provide the title intermediate (203 mg, 71% yield) as a yellow solid. (m/z): [M+H]+ calcd for C23H25BrF4N4O4 577.10; 579.10. found 579.0.

reactant | 4-bromo-2-fluoro-3-(trifluoromethoxy)benzoic acid | 0.50 mmol, 150 mg | BrC1=C(C(=C(C(=O)O)C=C1)F)OC(F)(F)F | C8H3BrF4O3
reactant | (R)-tert-butyl 4-(5-aminopyridin-2-yl)-3-methylpiperazine-1-carboxylate | 0.50 mmol, 145 mg | NC=1C=CC(=NC1)N1[C@@H](CN(CC1)C(=O)OC(C)(C)C)C | C15H24N4O2
reactant | HATU | 0.62 mmol, 235 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 2.48 mmol, 0.43 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-tert-butyl 4-(5-(4-bromo-2-fluoro-3-(trifluoromethoxy)benzamido)pyridin-2-yl)-3-methylpiperazine-1-carboxylate | 203 mg, 71% yield | BrC1=C(C(=C(C(=O)NC=2C=CC(=NC2)N2[C@@H](CN(CC2)C(=O)OC(C)(C)C)C)C=C1)F)OC(F)(F)F | C23H25BrF4N4O4
